US04654428
In 150 ml of toluene was dissolved 9.9 g of carbonyl chloride, and a solution of 22.1 g of γ-triethoxysilylpropylamine and 23.3 g of triethylamine in 50 ml of toluene was dropped into the above solution at 0° C. to -5° C. over a period of 3 hours to effect reaction. After the reaction, the crystal of triethylamine hydrochloride was recovered by filtration and the filtrate was distilled to recover toluene, whereby 16.0 g of γ-triethoxysilylpropyl isocyanate was obtained at a fraction having a boiling point of 88° C. to 91° C. under 4.5 mmHg.

reactant | carbonyl chloride | 9.9 g | C(=O)(Cl)Cl | CCl2O
reactant | γ-triethoxysilylpropylamine | 22.1 g | C(C)O[Si](CCCN)(OCC)OCC | C9H23NO3Si
reactant | triethylamine | 23.3 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | γ-triethoxysilylpropyl isocyanate | 16.0 g | C(C)O[Si](CCCN=C=O)(OCC)OCC | C10H21NO4Si
